US07919504B2
tert-Butyl (2S,3S)-4-(tert-butyldimethylsilyloxy)-1-(5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-ylamino)-1-oxo-3-(4-trifluoromethylphenyl)butan-2-ylcarbamate (0.014 g, 0.020 mmol) was taken up in 2 mL of 4 N HCl in dioxane. After 1.5 hours, a white precipitate formed. The precipitate was collected by filtration to provide (2S,3S)-2-amino-4-hydroxy-N-(5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-yl)-3-(4-(trifluoromethyl)phenyl)butanamide hydrochloride (1.2 mg, 12%). LCMS (M+H) 474 calc. for C22H19F3N5O2S 474.1. 1H NMR (400 MHz, CD3OD): δ ppm 9.84-9.78 (m 1H), 8.90-8.55 (m, 6H), 7.80-6.58 (m, 3H), 4.83-4.72 (m 2H), 4.09-3.90 (m, 1H), 3.72-3.54 (m, 1H). 4H not detected.

reactant | tert-Butyl (2S,3S)-4-(tert-butyldimethylsilyloxy)-1-(5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-ylamino)-1-oxo-3-(4-trifluoromethylphenyl)butan-2-ylcarbamate | 0.020 mmol, 0.014 g | [Si](C)(C)(C(C)(C)C)OC[C@H]([C@@H](C(=O)NC=1SC(=NN1)C=1C=C2C=CN=CC2=CC1)NC(OC(C)(C)C)=O)C1=CC=C(C=C1)C(F)(F)F | C33H40F3N5O4SSi
reactant | HCl | 4 N, 2 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2S,3S)-2-amino-4-hydroxy-N-(5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-yl)-3-(4-(trifluoromethyl)phenyl)butanamide hydrochloride | 1.2 mg, 12% | Cl.N[C@H](C(=O)NC=1SC(=NN1)C=1C=C2C=CN=CC2=CC1)[C@@H](CO)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C22H18F3N5O2S.ClH/c23-22(24,25)16-5-3-12(4-6-16)17(11-31)18(26)19(32)28-21-30-29-20(33-21)14-1-2-15-10-27-8-7-13(15)9-14;/h1-10,17-18,31H,11,26H2,(H,28,30,32);1H/t17-,18-;/m0./s1
